US08476302B2
To a solution of 2-hydroxy-8-phenyloctanoic acid (458 mg, 1.94 mmol), 5-phenyl-1,3,4-oxadiazol-2-yl methanamine oxalate (514 mg, 1.94 mmol), HOBt (314 mg, 2.3 mmol) and diisopropylethyl amine (501 mg, 3.9 mmol) in DMF (15 mL) was added 1-ethyl-3(3-dimethylaminopropyl) carbodiimide hydrochloride (446 mg, 2.3 mmol). The suspension was stirred for 48 h then filtered. The filtrate was diluted with EtOAc and washed sequentially with water, saturated NaHCO3, and brine. The organic phase was dried (Na2SO4) and filtered and the residue triturated with EtOAc to yield 2-hydroxy-8-phenyl-N-((5-phenyl-1,3,4-oxadiazol-2-yl)methyl)octanamide (MH+=394).

reactant | 2-hydroxy-8-phenyloctanoic acid | 1.94 mmol, 458 mg | OC(C(=O)O)CCCCCCC1=CC=CC=C1 | C14H20O3
reactant | 5-phenyl-1,3,4-oxadiazol-2-yl methanamine oxalate | 1.94 mmol, 514 mg | C(C(=O)O)(=O)O.C1(=CC=CC=C1)C1=NN=C(O1)CN
reactant | HOBt | 2.3 mmol, 314 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | diisopropylethyl amine | 3.9 mmol, 501 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1-ethyl-3(3-dimethylaminopropyl) carbodiimide hydrochloride | 2.3 mmol, 446 mg | Cl.C(C)N=C=NCCCN(C)C
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | 2-hydroxy-8-phenyl-N-((5-phenyl-1,3,4-oxadiazol-2-yl)methyl)octanamide | OC(C(=O)NCC=1OC(=NN1)C1=CC=CC=C1)CCCCCCC1=CC=CC=C1 | C23H27N3O3
